Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Reglan / latex / Celebrex
 
Attending: ___.
 
Chief Complaint:
Skin redness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ admitting NP:

Ms. ___ is a ___ year-old female s/p Lap-Band port
revision performed three days ago by Dr. ___.  She noted some
redness around her incision beginning on post-operative day 1,
which she outlined.  She paged today to report increased 
redness,
which had spread past the outline, warmth and pain.  She also
endorsed elevation of her temperature to 100. Otherwise, she
reports recovering as expected.  She was tolerating her diet
without nausea or vomiting, but does note some nausea with pain
medication.  She has also experienced some constipation
post-operatively.  She has been ambulatory since surgery and
denies lower extremity pain, chest pain or shortness of breath.

ROS:
(+) per HPI
(-) Denies chills, night sweats, unexplained weight loss, sleep,
pruritis, jaundice, rashes, bleeding, vomiting, hematemesis,
bloating, cramping, melena, BRBPR, chest pain, shortness of
breath, cough, urinary frequency, urgency 

 
Past Medical History:
1.Neck mass/Lipoma
2.Depression/panic attacks            
3.Hiadranitis   
4.Ulcerative colitis                                             


Past Surgical History
1. Lap-Band  ___  AP- Standard  
2. C-section x 3
3. Knee surgery
4. Pilonidal cyst
5. Cholecystectomy    

 
Social History:
Social History: Lives with husband, three children

 
Physical Exam:
Vitals: Tm 99 Tc 98.1 HR 74 BP 111/61 RR 18 99 RA
Gen: Patient in NAD lying comfortably in bed
CV: Regular rate and rhythm
Lungs: CTA b/l
Abdomen: soft, non distended, slightly tender to palpation. Per 
incisional erythema markedly improved from previous
Extremeties: No edema

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of morbid 
obesity s/p Lap-Band placement performed in ___.  Her port was 
flipped, therefore, she underwent port replacement on ___.  She has since developed a large area of periwound 
erythema. She was afebrile with stable vital signs on admission. 
On HOD#1 Dr. ___ opened approxiametely 3 mm of fluid for 
incision and expressed minimal (few ccs)of fluid from incision 
area, appeared serosanguinous and was sent for culture. The 
patient was started on empiric IV Vancomycin. On HOD#2 patient 
remained afebrile w/o leukocytosis and vital signs remained 
stable. Her erythema and discomfort had improved markedly from 
previous. Patient expressed that she must go home today to take 
care of her 3 children as there was no one available to look 
after her this weekend as both her husband and mother absolutely 
had to go to work. She had an extensive discussion with ___ 
___ the team about possible discharge from the hospital with PO 
antibiotics. The risks of prematurely stopping the IV Vancomycin 
including worsening infection, port infection, pain, and need to 
open the incision were discussed along with the possibility that 
PO antibiotics while less effective may be able to treat the 
infection though this would require vigilance on her part for 
any signs of worsening infection. It was also discussed that 
there is a risk of port site infection and if at any point this 
infection worsens or recurs (as evidenced by fever, spreading 
redness, drainage from the wound, or other concerning signs) 
near discharge or in the future, the patient should immediately 
notify herdoctor/present to the ED as treatment and possible 
revision/removal of the port will need to be considered. The 
patient expressed understanding and verbalized agreement. 
Infectious Disease was consulted for possible PO antibiotics for 
treatment of the cellulitis and recommended a course of Bactrim 
DS + Cephalexin for 10 days with vigilance for infection 
recurrence. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a stage V 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine HCl 10 mg/5 mL oral daily 

 
Discharge Medications:
1. PARoxetine HCl 10 mg/5 mL oral daily 
2. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 14 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage V diet until your follow up appointment. Do 
not self advance diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications. You must not use NSAIDS 
(non-steroidal anti-inflammatory drugs) Examples are Ibuprofen, 
Motrin, Aleve, Nuprin and Naproxen.

1.You are being discharge on a new antibiotic (Bactrim) to 
continue to treat your skin infection. You understand that this 
is not as effective in treating your infection as the IV 
Vancomycin and the early transition to oral antibiotics is to 
enable you to return home earlier to take care of your kids as 
it is difficult to find someone else able and if the infection 
does not subside you will need to notify your doctor 
immediately/present to the ED. 

Wound Care:

Please leave current dressing on for at least another 2 days. 
Then remove and replace with guaze or other form of bandage. You 
may shower, no tub baths or swimming. Keep wound area as dry as 
possible. Please call the doctor if you have increased pain, 
swelling, redness, or drainage from the incision sites.  

 
Followup Instructions:
___